***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19533Q5A
* Date: 01/17/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS486 - DECEMBER 2013
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	9.057E-10	)
+	(	1	8.993E-10	)
+	(	2	8.96E-10	)
+	(	3	8.959E-10	)
+	(	4	8.992E-10	)
+	(	5	9.034E-10	)
+	(	6	9.072E-10	)
+	(	7	9.2513E-10	)
+	(	8	9.5376E-10	)
+	(	9	9.5416E-10	)
+	(	10	9.5294E-10	)
+	(	11	9.5257E-10	)
+	(	12	9.521E-10	)
+	(	13	9.5156E-10	)
+	(	14	9.5001E-10	)
+	(	15	9.4942E-10	)
+	(	16	9.488E-10	)
+	(	17	9.4814E-10	)
+	(	18	9.4745E-10	)
+	(	19	9.4675E-10	)
+	(	20	9.4603E-10	)
+	(	21	9.4532E-10	)
+	(	22	9.4462E-10	)
+	(	23	9.4392E-10	)
+	(	24	9.4323E-10	)
+	(	25	9.4256E-10	)
+	(	26	9.4192E-10	)
+	(	27	9.413E-10	)
+	(	28	9.4071E-10	)
+	(	29	9.4013E-10	)
+	(	30	9.3957E-10	)
+	(	31	9.39E-10	)
+	(	32	9.3842E-10	)
+	(	33	9.3781E-10	)
+	(	34	9.3715E-10	)
+	(	35	9.3546E-10	)
+	(	36	9.3473E-10	)
+	(	37	9.3396E-10	)
+	(	38	9.3316E-10	)
+	(	39	9.3233E-10	)
+	(	40	9.3147E-10	)
+	(	41	9.306E-10	)
+	(	42	9.297E-10	)
+	(	43	9.2879E-10	)
+	(	44	9.2786E-10	)
+	(	45	9.2692E-10	)
+	(	46	9.2597E-10	)
+	(	47	9.2402E-10	)
+	(	48	9.2305E-10	)
+	(	49	9.2207E-10	)
+	(	50	9.211E-10	)
+	(	51	9.2011E-10	)
+	(	52	9.1912E-10	)
+	(	53	9.1813E-10	)
+	(	54	9.1614E-10	)
+	(	55	9.1515E-10	)
+	(	56	9.1415E-10	)
+	(	57	9.1316E-10	)
+	(	58	9.1218E-10	)
+	(	59	9.1019E-10	)
+	(	60	9.0921E-10	)
+	(	61	9.0823E-10	)
+	(	62	9.0726E-10	)
+	(	63	9.0628E-10	)
+	(	64	9.0431E-10	)
+	(	65	9.0334E-10	)
+	(	66	9.0237E-10	)
+	(	67	9.004E-10	)
+	(	68	8.9944E-10	)
+	(	69	8.9847E-10	)
+	(	70	8.9751E-10	)
+	(	71	8.9555E-10	)
+	(	72	8.9458E-10	)
+	(	73	8.9362E-10	)
+	(	74	8.9166E-10	)
+	(	75	8.907E-10	)
+	(	76	8.8974E-10	)
+	(	77	8.8777E-10	)
+	(	78	8.8681E-10	)
+	(	79	8.8585E-10	)
+	(	80	8.8389E-10	)
+	(	81	8.8292E-10	)
+	(	82	8.8196E-10	)
+	(	83	8.7999E-10	)
+	(	84	8.7903E-10	)
+	(	85	8.7807E-10	)
+	(	86	8.761E-10	)
+	(	87	8.7514E-10	)
+	(	88	8.7317E-10	)
+	(	89	8.722E-10	)
+	(	90	8.7124E-10	)
+	(	91	8.6927E-10	)
+	(	92	8.683E-10	)
+	(	93	8.6733E-10	)
+	(	94	8.6536E-10	)
+	(	95	8.6439E-10	)
+	(	96	8.6241E-10	)
+	(	97	8.6238E-10	)
+	(	98	8.6234E-10	)
+	(	99	8.623E-10	)
+	(	100	8.6226E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.133E-10	)
+	(	1	1.857E-10	)
+	(	2	1.66E-10	)
+	(	3	1.501E-10	)
+	(	4	1.328E-10	)
+	(	5	1.166E-10	)
+	(	6	1.018E-10	)
+	(	7	7.387E-11	)
+	(	8	3.024E-11	)
+	(	9	2.884E-11	)
+	(	10	2.806E-11	)
+	(	11	2.743E-11	)
+	(	12	2.69E-11	)
+	(	13	2.644E-11	)
+	(	14	2.599E-11	)
+	(	15	2.558E-11	)
+	(	16	2.52E-11	)
+	(	17	2.486E-11	)
+	(	18	2.455E-11	)
+	(	19	2.425E-11	)
+	(	20	2.397E-11	)
+	(	21	2.368E-11	)
+	(	22	2.338E-11	)
+	(	23	2.308E-11	)
+	(	24	2.277E-11	)
+	(	25	2.244E-11	)
+	(	26	2.208E-11	)
+	(	27	2.17E-11	)
+	(	28	2.129E-11	)
+	(	29	2.087E-11	)
+	(	30	2.043E-11	)
+	(	31	2E-11	)
+	(	32	1.958E-11	)
+	(	33	1.919E-11	)
+	(	34	1.885E-11	)
+	(	35	1.854E-11	)
+	(	36	1.827E-11	)
+	(	37	1.804E-11	)
+	(	38	1.784E-11	)
+	(	39	1.767E-11	)
+	(	40	1.753E-11	)
+	(	41	1.74E-11	)
+	(	42	1.73E-11	)
+	(	43	1.721E-11	)
+	(	44	1.714E-11	)
+	(	45	1.708E-11	)
+	(	46	1.703E-11	)
+	(	47	1.698E-11	)
+	(	48	1.695E-11	)
+	(	49	1.693E-11	)
+	(	50	1.69E-11	)
+	(	51	1.689E-11	)
+	(	52	1.688E-11	)
+	(	53	1.687E-11	)
+	(	54	1.686E-11	)
+	(	55	1.685E-11	)
+	(	56	1.685E-11	)
+	(	57	1.684E-11	)
+	(	58	1.682E-11	)
+	(	59	1.681E-11	)
+	(	60	1.679E-11	)
+	(	61	1.677E-11	)
+	(	62	1.674E-11	)
+	(	63	1.672E-11	)
+	(	64	1.669E-11	)
+	(	65	1.666E-11	)
+	(	66	1.663E-11	)
+	(	67	1.66E-11	)
+	(	68	1.656E-11	)
+	(	69	1.653E-11	)
+	(	70	1.649E-11	)
+	(	71	1.645E-11	)
+	(	72	1.642E-11	)
+	(	73	1.638E-11	)
+	(	74	1.634E-11	)
+	(	75	1.63E-11	)
+	(	76	1.626E-11	)
+	(	77	1.623E-11	)
+	(	78	1.619E-11	)
+	(	79	1.615E-11	)
+	(	80	1.611E-11	)
+	(	81	1.608E-11	)
+	(	82	1.604E-11	)
+	(	83	1.601E-11	)
+	(	84	1.597E-11	)
+	(	85	1.593E-11	)
+	(	86	1.59E-11	)
+	(	87	1.586E-11	)
+	(	88	1.583E-11	)
+	(	89	1.58E-11	)
+	(	90	1.576E-11	)
+	(	91	1.573E-11	)
+	(	92	1.57E-11	)
+	(	93	1.567E-11	)
+	(	94	1.564E-11	)
+	(	95	1.561E-11	)
+	(	96	1.559E-11	)
+	(	97	1.562E-11	)
+	(	98	1.566E-11	)
+	(	99	1.57E-11	)
+	(	100	1.574E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.7567E-09	)
+	(	1	2.3493E-09	)
+	(	2	2.064E-09	)
+	(	3	1.8609E-09	)
+	(	4	1.6912E-09	)
+	(	5	1.5554E-09	)
+	(	6	1.4322E-09	)
+	(	7	1.24113E-09	)
+	(	8	9.5876E-10	)
+	(	9	8.8956E-10	)
+	(	10	8.4304E-10	)
+	(	11	8.0407E-10	)
+	(	12	7.706E-10	)
+	(	13	7.4146E-10	)
+	(	14	7.1601E-10	)
+	(	15	6.9342E-10	)
+	(	16	6.737E-10	)
+	(	17	6.5624E-10	)
+	(	18	6.4105E-10	)
+	(	19	6.2815E-10	)
+	(	20	6.1733E-10	)
+	(	21	6.0892E-10	)
+	(	22	6.0282E-10	)
+	(	23	5.9932E-10	)
+	(	24	5.9833E-10	)
+	(	25	5.9936E-10	)
+	(	26	6.0172E-10	)
+	(	27	6.049E-10	)
+	(	28	6.0761E-10	)
+	(	29	6.0893E-10	)
+	(	30	6.0797E-10	)
+	(	31	6.045E-10	)
+	(	32	5.9852E-10	)
+	(	33	5.9001E-10	)
+	(	34	5.7975E-10	)
+	(	35	5.6796E-10	)
+	(	36	5.5543E-10	)
+	(	37	5.4246E-10	)
+	(	38	5.2936E-10	)
+	(	39	5.1633E-10	)
+	(	40	5.0347E-10	)
+	(	41	4.908E-10	)
+	(	42	4.785E-10	)
+	(	43	4.6629E-10	)
+	(	44	4.5436E-10	)
+	(	45	4.4272E-10	)
+	(	46	4.3127E-10	)
+	(	47	4.2012E-10	)
+	(	48	4.0895E-10	)
+	(	49	3.9797E-10	)
+	(	50	3.87E-10	)
+	(	51	3.7641E-10	)
+	(	52	3.6602E-10	)
+	(	53	3.5593E-10	)
+	(	54	3.4614E-10	)
+	(	55	3.3675E-10	)
+	(	56	3.2775E-10	)
+	(	57	3.1946E-10	)
+	(	58	3.1168E-10	)
+	(	59	3.0449E-10	)
+	(	60	2.9791E-10	)
+	(	61	2.9183E-10	)
+	(	62	2.8626E-10	)
+	(	63	2.8118E-10	)
+	(	64	2.7661E-10	)
+	(	65	2.7234E-10	)
+	(	66	2.6847E-10	)
+	(	67	2.649E-10	)
+	(	68	2.6154E-10	)
+	(	69	2.5847E-10	)
+	(	70	2.5571E-10	)
+	(	71	2.5305E-10	)
+	(	72	2.5058E-10	)
+	(	73	2.4832E-10	)
+	(	74	2.4616E-10	)
+	(	75	2.441E-10	)
+	(	76	2.4224E-10	)
+	(	77	2.4047E-10	)
+	(	78	2.3881E-10	)
+	(	79	2.3725E-10	)
+	(	80	2.3579E-10	)
+	(	81	2.3442E-10	)
+	(	82	2.3316E-10	)
+	(	83	2.3189E-10	)
+	(	84	2.3083E-10	)
+	(	85	2.2967E-10	)
+	(	86	2.287E-10	)
+	(	87	2.2774E-10	)
+	(	88	2.2677E-10	)
+	(	89	2.259E-10	)
+	(	90	2.2504E-10	)
+	(	91	2.2427E-10	)
+	(	92	2.235E-10	)
+	(	93	2.2283E-10	)
+	(	94	2.2216E-10	)
+	(	95	2.2149E-10	)
+	(	96	2.2091E-10	)
+	(	97	2.2078E-10	)
+	(	98	2.2074E-10	)
+	(	99	2.207E-10	)
+	(	100	2.2076E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD19533Q5A  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    7.00e-3  
 .PARAM  ptrc2    2.50e-5
 .PARAM  pwidthP  3.4994117647058823529411764705882
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	0.93e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {3.4994117647058823529411764705882/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 4.40
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 5.85e-3
RDP   4  7	 {0.5e-4+0.52e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = 0.10        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.125
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.400e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18   gamma=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=101
+ IS=5.0e-12 N=1.06 RS=0.70e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19533Q5A
*$
*